### PR TITLE
[Merged by Bors] - feat: define reflexive modules and prove basics of perfect pairings

### PR DESCRIPTION
**Pull request by ocfnash**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by j-loreaux** [comment]
@ocfnash It would be really cool if we could generalize the statement of `IsReflexive` so that it is also applicable to Banach spaces (or LCTVSs more generally), but (a) I don't immediately see how to do that, and (b) it's not absolutely necessary, especially not for this PR. However, I'm mentioning it in case you see an immediately obvious idea.

Note that, in functional analysis, the condition you provided for `IsReflexive` is called "semi-reflexive" (i.e., bijectivity of the double dual map, using the strong dual), and "reflexive" is used to mean this map is an isomorphism (for Banach spaces, these conditions are equivalent). Maybe this warrants a rename, but perhaps not if it's going to be focused solely on the algebraic dual.

**Comment by ocfnash** [comment]
@j-loreaux Thanks for the remarks, I like the idea but I don't see an easy way to implement it (I had actually thought a bit about this while making this PR).

For me the issue is that I don't see an easy way to abstract over the type of dual we're talking about.

For example, the type `D : Type _ → Type _ → Type _` in your sketch won't work because `D` would also need to take various typeclass parameters. For example, the type of `Module.Dual` is:
```lean
(R : Type u_1) → (M : Type u_2) → [CommSemiring R] → [AddCommMonoid M] → [Module R M] → Type (max u_2 u_1)
```
I expect we could unify things using our category theory library but I don't think it would be worth it.

I think it is better just to have separate theories for this purely algebraic concept (which is called [reflexive](https://stacks.math.columbia.edu/tag/0AUY)) and the analytic versions (with lemmas connecting them in, say, finite dimensions). This is also what we do elsewhere, e.g., we have purely algebraic tensor products.

File: Mathlib/LinearAlgebra/Dual.lean [hunk 1]
```diff
@@ -589,42 +578,75 @@ theorem erange_coe [FiniteDimensional K V] : LinearMap.range (eval K V) = ⊤ :=
...
-    (evalEquiv K V).toLinearMap = Dual.eval K V :=
-  rfl
+Any finitely-generated free module (and thus any finite-dimensional vector space) is reflexive.
+See `Module.IsReflexive.of_finite_of_free`. -/
+class IsReflexive : Prop where
+  /-- A reflexive module is one for which the natural map to its double dual is a bijection. -/
+  bijective_dual_eval' : Bijective $ Dual.eval R M
+
+lemma IsReflexive.bijective_dual_eval [IsReflexive R M] : Bijective $ Dual.eval R M :=
+bijective_dual_eval'
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Dual.lean:596]: style nit:
```suggestion
  bijective_dual_eval'
```

File: Mathlib/Algebra/SMulWithZero.lean [hunk 2]
```diff
@@ -228,3 +228,11 @@ def smulMonoidWithZeroHom {α β : Type _} [MonoidWithZero α] [MulZeroOneClass
...
 #align smul_monoid_with_zero_hom smulMonoidWithZeroHom
 #align smul_monoid_with_zero_hom_apply smulMonoidWithZeroHom_apply
+
+/-- If `R` contains a unique element and acts multiplicatively on `M` then `M` contains a unique
+element.
+
+The typical application is that the only module over the zero ring is the zero module. -/
+def unique_of_mulActionWithZero_of_subsingleton (R M : Type _)
+    [MonoidWithZero R] [Zero M] [MulActionWithZero R M] [Subsingleton R] : Unique M :=
+⟨⟨0⟩, fun m ↦ by rw [← one_smul R m, Subsingleton.allEq 1 0, zero_smul]; rfl⟩
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Algebra/SMulWithZero.lean:238]: Thanks, of course I should just be using `Module.subsingleton` --- I don't know how I didn't realise this!

File: Mathlib/LinearAlgebra/Dual.lean [hunk 3]
```diff
@@ -589,42 +578,85 @@ theorem erange_coe [FiniteDimensional K V] : LinearMap.range (eval K V) = ⊤ :=
...
+  /-- A reflexive module is one for which the natural map to its double dual is a bijection. -/
+  bijective_dual_eval' : Bijective $ Dual.eval R M
+
+lemma bijective_dual_eval [IsReflexive R M] : Bijective $ Dual.eval R M :=
+  IsReflexive.bijective_dual_eval'
+
+instance IsReflexive.of_finite_of_free [Finite R M] [Free R M] : IsReflexive R M := by
+  cases' h : subsingleton_or_nontrivial R
+  · have := Module.subsingleton R M
+    exact ⟨⟨fun x y _ ↦ by simp, fun x ↦ ⟨0, by simp⟩⟩⟩
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Dual.lean:601]: This could be a standalone `IsReflective.of_subsingleton [Subsingleton M]`, right?

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Dual.lean:601]: I actually considered this but I didn't bother because it's just a special case of this lemma, specifically:
```
example [Subsingleton M] : Finite R M := inferInstance
example [Subsingleton M] : Free R M := inferInstance
```

File: Mathlib/LinearAlgebra/PerfectPairing.lean [hunk 4]
```diff
@@ -0,0 +1,56 @@
...
+namespace LinearEquiv
+
+open Module
+
+variable {R M N : Type _} [CommRing R] [AddCommGroup M] [Module R M] [AddCommGroup N] [Module R N]
+variable [IsReflexive R M] (e : N ≃ₗ[R] Dual R M)
+
+/-- For a reflexive module `M`, an equivalence `N ≃ₗ[R] Dual R M` naturally yields an equivalence
+`M ≃ₗ[R] Dual R N`. Such equivalences are known as perfect pairings. -/
+noncomputable def flip : M ≃ₗ[R] Dual R N :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/PerfectPairing.lean:35]: What do you think of `LinearEquiv.dualFlip` as the name of this lemma, for dot notation?

**Review by eric-wieser — APPROVED** [review]
bors d+

I gave up on `ULift` because I think we're missing some machinery, and it's not interesting enough to bother with here.

File: Mathlib/LinearAlgebra/PerfectPairing.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/PerfectPairing.lean:35]: I think I prefer `e.flip` for consistency / discoverability for someone who knows `LinearMap.flip`, and in a tie-break because it's got fewer characters!

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/PerfectPairing.lean:35]: Oh, I totally missed the lemma below that explains the current name. Yes, I agree what you have now is better.
